US06599925B2
2-{[6-(3-Pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetonitrile
Following the procedure described in Step 1 of Example 1, 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile (0.480 g, 1.04 mmol) was coupled to phenylboronic acid (0.448 g, 3.67 mmol) using [1,1′-bis(diphenylphosphino)ferrocene] dichloropalladium (II) complex with dichloromethane (1:1) (0.0918 g, 0.112 mmol) in presence of potassium carbonate (0.290 g, 2.10 mmol) in dioxane (10 mL) and water (1.0 mL). The reaction mixture was stirred at 70° C. for 22 hours. Purification by flash chromatography (Biotage apparatus) using 7.5-10% tert-butyl methyl ether in hexane furnished the title compound (0.230 g). 1HNMR (300 MHz, DMSO-d6): δ8.5 (s, 1H), 8.3 (d, 1H, J=9.2 Hz), 8.05 (d, 1H, J=7.7 Hz), 7.7-7.85 (m, 3H), 7.35-7.6 (m, 9H), 5.25 (s, 2H), 2.75 (t, 2H, J=7.7 Hz), 1.5-1.6 (m, 2H), 1.1-1.3 (m, 2H), and 0.75 ppm (t, 3H, J=7.7 Hz).

reactant | 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile | 1.04 mmol, 0.480 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC#N | C25H20BrNO3
reactant | phenylboronic acid | 3.67 mmol, 0.448 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dichloromethane | 0.112 mmol, 0.0918 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 2.10 mmol, 0.290 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
product | 2-{[6-(3-Pentanoyl-1-benzofuran-2-yl)-1-phenyl-2-naphthyl]oxy}acetonitrile | 0.230 g | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)C2=CC=CC=C2)OCC#N | C31H25NO3
